US07863302B2
4-methoxy-benzo[b]thiophen-3-yl-acetic acid ethyl ester
4-(3-methoxy-phenylsulfanyl)-3-oxo-butyric acid ethyl ester (10.9 g, 40.62 mmol) is added to methanesulfonic acid (26.6 mL, 406 mmol). The mixture is stirred at room temperature for 30 minutes. The reaction mixture is poured into ice-water (300 g) and extracted with EtOAc (100 mL×2). The combined organic layers are dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product is purified by flash chromatography eluting with 20% EtOAc/Hexanes. The appropriate fractions are combined and concentrated under reduced pressure to afford the title compound (6.00 g, 59%). ES/MS n/e 251.0 (M+1)

reactant | 4-(3-methoxy-phenylsulfanyl)-3-oxo-butyric acid ethyl ester | 40.62 mmol, 10.9 g | C(C)OC(CC(CSC1=CC(=CC=C1)OC)=O)=O | C13H16O4S
reactant | methanesulfonic acid | 406 mmol, 26.6 mL | CS(=O)(=O)O | CH4O3S
product | 4-methoxy-benzo[b]thiophen-3-yl-acetic acid ethyl ester | 6.00 g, 59% | C(C)OC(CC=1C2=C(SC1)C=CC=C2OC)=O | C13H14O3S
